*****************************************************************
* NXP BUK7Y25-60E
*
* Polarity N-Channel
* Ratings 60V/2.500000E-002OHMS/33.9233439828457A
*
* Date Created Mon Feb 04 07:49:25 2013
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BUK7Y25-60E DRAIN GATE SOURCE

LD DRAIN 5 1e-11
RLD2 DRAIN 5 0.0251327412287184
RLD1 5 4 3e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 5.3e-10
RLS2 SOURCE 8 1.33203528512207
RLS1 8 7 0.0002

RDS 7 4 60000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.0121517010944166 TC=0.0048260059883434,1.45148070123009E-05
RBD 9 4 0.00203977601752011 TC=0.0048260059883434,1.45148070123009E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 200000000
CGS 2 6 6.9e-10
RG 1 2 1.20079376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -12	750.868
+ -10	750.231
+ -8	749.221
+ -6	747.12
+ -5	743.947
+ -4	722.064
+ -3	762.366
+ -2	643.081
+ -1	513.279
+ -0.5	421.201
+ -0.2	349.596
+ -0.1	347.49
+ 0	287.7931
+ 0.1	221.8308
+ 0.2	221.57608
+ 0.5	190.781
+ 1	167.59744
+ 2	139.77548
+ 3	126.09764
+ 4	117.96828
+ 5	112.48668
+ 6	108.50376
+ 8	102.8458
+ 10	98.75013
+ 12	95.45605
+ 15	91.4178
+ 16	90.18658
+ 20	86.16981
+ 25	82.13264
+ 30	78.98549
+ 40	74.56506



.MODEL MINT NMOS(Vto=3.68192935315472 Kp=35 Nfs=900000000000 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=66 Ibv=2.500000E-004 Rs=1E-6 Is=1.5374560732715e-13
+ N=1 M=0.59 VJ=0.5 Fc=0.5 Cjo=3.9039268e-10 Tt=1.2368e-08)

.ENDS

